US07390797B2
4-Iodo-5H-dibenzo[a, d]cyclohepten-5-one
2.06 g of dibenzosuberenone [CAS No. 2222-33-5] was subjected to the procedure of Example 1-g using 6.5 g of thallium trifluoroacetate and 2.0 g of potassium iodide, to give 1.0 g of a mixture of the title compound with dibenzosuberenone as a colorless powder.

reactant | dibenzosuberenone | 2.06 g | C1=CC=C2C(=C1)C=CC3=CC=CC=C3C2=O | C15H10O
reactant | thallium trifluoroacetate | 6.5 g | FC(C(=O)[O-])(F)F.[Tl+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
product | 4-Iodo-5H-dibenzo[a, d]cyclohepten-5-one | IC1=CC=CC2=C1C(C1=C(C=C2)C=CC=C1)=O | C15H9IO
